US05962685
Synthesis of 5-[2-(4,6-dimethoxypyrimidine-2-yloxy)-6-(4,6-dimethoxytriazine-2-yloxy)phenyl]oxazole (Compound No. 5-14)
To DMF solution containing 0.14 g pottasium carbonate and 0.15 g 5-[2-(4,6-dimethoxypyrimidine-2-yloxy)-6-hydroxyphenyl]oxazole, was added at once DMF solution containing 0.13 g 2-chloro-4,6-dimethoxytriazine. The solution reacted was stirred for a night at room temperature. After completing the reaction, the solution reacted was poured into ice water and then extracted with ethyl acetate. The organic layer obtained was washed with water and saturated saline solution in turn and was then dried by using anhydrous magnesium sulfate. The solvent used was removed by distillation under reduced pressure, affording the objective substance in an amount of 0.22 g.

reactant | carbonate | 0.14 g | C([O-])([O-])=O
reactant | 5-[2-(4,6-dimethoxypyrimidine-2-yloxy)-6-hydroxyphenyl]oxazole | 0.15 g | COC1=NC(=NC(=C1)OC)OC1=C(C(=CC=C1)O)C1=CN=CO1 | C15H13N3O5
reactant | 2-chloro-4,6-dimethoxytriazine | 0.13 g | ClN1NC(=CC(=N1)OC)OC | C5H8ClN3O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-[2-(4,6-dimethoxypyrimidine-2-yloxy)-6-(4,6-dimethoxytriazine-2-yloxy)phenyl]oxazole | COC1=NC(=NC(=C1)OC)OC1=C(C(=CC=C1)ON1NC(=CC(=N1)OC)OC)C1=CN=CO1 | C20H20N6O7
